US07718693B2
1-(1-Methylethyl)-5-oxoproline (0.100 g, 0.58 mmol) was dissolved in dichloromethane (20 ml) and to this was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.111 g, 0.58 mmol), 1-Hydroxybenzotriazole (0.078 g, 0.58 mmol), and N-ethyl morpholine (0.223 ml, 1.75 mmol). Finally {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine was added to the mixture and stirring continued for ˜48 hrs. The mixture was then treated with saturated aqueous sodium hydrogen carbonate (20 ml) and stirred vigorously. The aqueous layer was removed using a phase separator and then the solvent was removed from the organic layer using an argon blow-down unit. The resulting residue was treated with a mixture of water and ethylacetate (25 ml, 1:1) and the aqueous layer was subsequently discarded. The organic layer was filtered through a phase separator and evaporated to give an oil. This was triturated with diethyl ether to give a solid and this was subsequently purified by mass-directed automated HPLC to give N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-1-(1-methylethyl)-5-oxoprolinamide (0.097 g) as a white solid. LC/MS [M+H]+=363, retention time=2.48 minutes.

reactant | 1-(1-Methylethyl)-5-oxoproline | 0.58 mmol, 0.100 g | CC(C)N1[C@H](C(=O)O)CCC1=O | C8H13NO3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.58 mmol, 0.111 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-Hydroxybenzotriazole | 0.58 mmol, 0.078 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl morpholine | 1.75 mmol, 0.223 ml | C(C)N1CCOCC1 | C6H13NO
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-1-(1-methylethyl)-5-oxoprolinamide | 0.097 g | ClC1=C(C=CC=C1C(F)(F)F)CNC([C@H]1N(C(CC1)=O)C(C)C)=O | C16H18ClF3N2O2
